US04760163
using isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate in dimethylformamide there is obtained isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,5-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 177°-180° C.,

reactant | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-5-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(NC=C(C1=O)C)=O | C15H14ClFN2O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | isopropyl 2-chloro-4-fluoro-5-[3,6-dihydro-3,5-dimethyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N1C(N(C=C(C1=O)C)C)=O | C16H16ClFN2O4
